US04937373
A solution of 2.956 g (16 mmol) of 1,2-dimethoxy-3,4,6trimethylbenzene in 10 mL of methylene chloride was added to 2.40 g (18 mmol) of aluminum chloride and 3.80 g (18 mmol) of 6-bromohexanoyl chloride in 30 mL of methylene chloride cooled in an ice bath. The solution was kept at 3° for 45 minutes and then at 23° for 42 hours. An additional 2.0 g of aluminum chloride and 3.0 g of 6-bromohexanoyl chloride were added and the reaction mixture was stirred at reflux for 22 hours. Workup as in Example 16 and purification by HPLC using 4% ethyl acetate-hexane gave 0.95 g of 6-bromo-1-(3,4-dimethoxy-2,5,6-trimethylphenyl)-1-hexanone as an oil. The nmr spectrum was consistent with the structure and the mass spectrum gave a molecular ion at m/z 356 (C17H25BrO3).

reactant | 1,2-dimethoxy-3,4,6trimethylbenzene | 16 mmol, 2.956 g | COC1=C(C(=C(C=C1C)C)C)OC | C11H16O2
reactant | aluminum chloride | 18 mmol, 2.40 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 6-bromohexanoyl chloride | 18 mmol, 3.80 g | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | aluminum chloride | 2.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 6-bromohexanoyl chloride | 3.0 g | BrCCCCCC(=O)Cl | C6H10BrClO
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 6-bromo-1-(3,4-dimethoxy-2,5,6-trimethylphenyl)-1-hexanone | 0.95 g | BrCCCCCC(=O)C1=C(C(=C(C(=C1C)C)OC)OC)C | C17H25BrO3
